US05173503
A solution of 1,2,3,4-tetrahydroisoquinoline (13.22 g) and imidazole-4-sulphonyl chloride (7.57 g) in toluene (70 ml) was stirred for 1 hour and then allowed to stand overnight. It was evaporated and the residue partitioned between diethyl ether and aqueous sodium hydroxide. The aqueous layer was clarified by ether extraction and then acidified with concentrated hydrochloric acid. The precipitate was collected, washed with water and dried to give crude 4-(1,2,3,4-tetrahydroisoquinolin-2-ylsulphonyl)-1H-imidazole. A solution of this product (9 g) in dimethylformamide was treated with sodium hydride (1.13 g of 80% in oil), followed by dimethylsulphamoyl chloride (5.4 g). The mixture was stirred for 1 hour and poured into water. The precipitate was collected and worked up to give the starting material.

reactant | 1,2,3,4-tetrahydroisoquinoline | 13.22 g | C1NCCC2=CC=CC=C12 | C9H11N
reactant | imidazole-4-sulphonyl chloride | 7.57 g | N1C=NC(=C1)S(=O)(=O)Cl | C3H3ClN2O2S
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(1,2,3,4-tetrahydroisoquinolin-2-ylsulphonyl)-1H-imidazole | C1N(CCC2=CC=CC=C12)S(=O)(=O)C=1N=CNC1 | C12H13N3O2S
